US04714492
5.8 g. of ethyl 1,2-dimethyl-5-phenyl-4-oxonicotinate was suspended in 60 ml. of 5% aqueous NaOH solution and heated on a steambath for 21/2 hours. The mixture was cooled and acidified. The resulting solid was recrystallized from acetonitrile to yield 1,2-dimethyl-5-phenyl-4-oxonicotinic acid as tan needles. m.p.=227°-228° C.

reactant | ethyl 1,2-dimethyl-5-phenyl-4-oxonicotinate | CN1C(=C(C(=O)OCC)C(C(=C1)C1=CC=CC=C1)=O)C | C16H17NO3
reactant | NaOH | [OH-].[Na+]
product | 1,2-dimethyl-5-phenyl-4-oxonicotinic acid | CN1C(=C(C(=O)O)C(C(=C1)C1=CC=CC=C1)=O)C | C14H13NO3
